US08314098B2
(Step 1): 3-Bromo-5-chloro-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine
There was dissolved, in methylene chloride (2 mL), 5-chloro-2-(4-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (44.4 mg, 0.135 mM), then N-bromo-succinimide (27.1 mg, 0.152 mM) was added to the resulting solution and the mixture was stirred at room temperature for 40 minutes. This reaction liquid was diluted with a saturated aqueous ammonium chloride solution and then extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was then distilled off and the resulting residue was purified by the silica gel column chromatography (ethyl acetate/hexane=1:10) to thus obtain the title compound (27.6 mg, yield: 50%).

reactant | 5-chloro-2-(4-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.135 mM, 44.4 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)C | C17H17ClN4O
reactant | N-bromo-succinimide | 0.152 mM, 27.1 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 3-Bromo-5-chloro-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine | 27.6 mg, yield: 50% | BrC=1C(=NN2C1N=C(C=C2N2CCOCC2)Cl)C2=CC=C(C=C2)C | C17H16BrClN4O
